US09359375B2
A mixture of (R)-2-(3-bromo-4-cyanophenylamino)-3-(1H-indol-3-yl)propanamide (96 mg, 0.250 mmol), 5-amino-3-methylisothiazole hydrochloride (60 mg, 0.398 mmol), K2CO3 (120 mg, 0.869 mmol), BINAP (40 mg, 0.064 mmol) and Pd(OAc)2 (20 mg, 0.089 mmol) in dioxane (2 mL) was degassed with argon, then was stirred at 120 C for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-(1H-indol-3-yl)propanamide (100 mg)

reactant | (R)-2-(3-bromo-4-cyanophenylamino)-3-(1H-indol-3-yl)propanamide | 0.250 mmol, 96 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)CC1=CNC2=CC=CC=C12 | C18H15BrN4O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.398 mmol, 60 mg | Cl.NC1=CC(=NS1)C
reactant | K2CO3 | 0.869 mmol, 120 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.064 mmol, 40 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.089 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-(1H-indol-3-yl)propanamide | 100 mg | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)CC1=CNC2=CC=CC=C12)NC1=CC(=NS1)C | C22H20N6OS
